* top6
.tran 1n 5m
Vin in 0 400
M1 in gate sw1 0 NMOS W=0.04 L=0.1
M2 in gate2 sw2 0 NMOS W=0.04 L=0.1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 0.04
L2 sw2 out 0.04
C1 out 0 0.01
Rload out 0 0.48
Vgate gate 0 PULSE(0 400 0 1n 1n 0.0041667 1e-05)
Vgate2 gate2 0 PULSE(0 400 5e-06 1n 1n 0.0041667 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.probe V(*) I(*)
.end
